US04443466
(c) 1-(2',6'-Dichlorophenyl)-3-hydroxy-2-propanone
10 g of 1,1-diethoxy-2-hydroxy-3-(2',6'-dichlorophenyl)propane are dissolved in 40 ml of ethanol, 20 ml of concentrated hydrochloric acid are added, and the mixture is refluxed for 4 hours, then is evaporated to dryness. 10 ml of toluene are added and the solution is again evaporated to dryness in order to remove the water. The residue, crude 1-(2',6'-dichlorophenyl)-3-hydroxy-2-propanone, is used in Example 49 (d) below. After recrystallization from diisopropyl ether, the product melts at 111°-114° C.

reactant | 1,1-diethoxy-2-hydroxy-3-(2',6'-dichlorophenyl)propane | 10 g | C(C)OC(C(CC1=C(C=CC=C1Cl)Cl)O)OCC | C13H18Cl2O3
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 1-(2',6'-Dichlorophenyl)-3-hydroxy-2-propanone | ClC1=C(C(=CC=C1)Cl)CC(CO)=O | C9H8Cl2O2
